US04038396
To a solution of 1.1 g. (0.005 mole) of 2-(3-hydroxyphenyl)oxazolo[4,5-b]pyridine in 15 ml. dried dimethylformamide is added 0.6 g. (0.011 mole) of sodium methoxide in portions over about 10 min. To the reddish-orange solution cooled in an ice-bath is added 0.72 g. (0.005 mole) of N,N-dimethyl-2-chloroethylamine hydrochloride in portions over 15 minutes. The resultant mixture is then stirred 10 minutes, set in an oil-bath at 75° C., and kept at 75°-90° C. (bath) for 20 hours. After cooling to room temperature, 15 ml. of dried ether is added with stirring, and the resultant mixture is filtered. The filtrate is then stripped of solvent, and the residue distributed between methylene chloride and water. The organic layer is dried over sodium sulfate, filtered, and concentrated in vacuo to yield 2-[3-(2-dimethylaminoethoxy)phenyl]oxazolo[4,5-b]pyridine.

reactant | 2-(3-hydroxyphenyl)oxazolo[4,5-b]pyridine | 0.005 mole | OC=1C=C(C=CC1)C=1OC=2C(=NC=CC2)N1 | C12H8N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium methoxide | 0.011 mole | C[O-].[Na+]
reactant | N,N-dimethyl-2-chloroethylamine hydrochloride | 0.005 mole | Cl.CN(C)CCCl
solvent | ether | CCOCC | C4H10O
product | 2-[3-(2-dimethylaminoethoxy)phenyl]oxazolo[4,5-b]pyridine | CN(CCOC=1C=C(C=CC1)C=1OC=2C(=NC=CC2)N1)C | C16H17N3O2
